US04482710
10 g of sodium 3-acetoxymethyl-7-phenoxyacetamido-3-cephem-4-carboxylate were dissolved in 100 ml of a 67% v/v aqueous methanol solution. 100 g of anhydrous calcium chloride were added to the solution, and then the mixture was stirred at 70° C. for 45 minutes. At the end of this time, 100 ml of ice-water, followed by 10 ml of 1N hydrochloric acid, were added to the reaction mixture. The reaction mixture was then extracted three times, each time with 100 ml of ethyl acetate. The extracts were combined, washed with an aqueous solution of sodium chloride and then extracted with two 50 ml portions of a 10% w/v aqueous solution of dipotassium phosphate. The extracts were combined, washed with a small amount of ethyl acetate and then acidified by the addition of a saturated aqueous solution of potassium hydrogen sulphate. The mixture was then extracted twice, each time with 100 ml of ethyl acetate. The ethyl acetate extracts were combined, washed with an aqueous solution of sodium chloride, dehydrated by the addition of anhydrous magnesium sulphate and then concentrated by evaporation under reduced pressure, to give 7.15 g of 3-methoxymethyl-7-phenoxyacetamido-3-cephem-4-carboxylic acid, in the form of a yellow solid.

reactant | sodium 3-acetoxymethyl-7-phenoxyacetamido-3-cephem-4-carboxylate | 10 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)[O-])C(C2NC(COC2=CC=CC=C2)=O)=O.[Na+]
reactant | calcium chloride | 100 g | [Cl-].[Ca+2].[Cl-]
reactant | hydrochloric acid | 1N, 10 ml | Cl | ClH
solvent | methanol | CO | CH4O
product | 3-methoxymethyl-7-phenoxyacetamido-3-cephem-4-carboxylic acid | 7.15 g | COCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(COC2=CC=CC=C2)=O)=O | C17H18N2O6S
